US05256697
Preferably in this method of synthesis, the thionyl chloride or oxalyl chloride is added to a suspension of sodium pyruvate to yield the pyruvyl chloride to which is added the of glycine benzyl ester hydrochloride. The resulting slurry is cooled during the addition of N-methylmorpholine solution to yield a pyruvyl-glycine benzyl ester. The yielding of the pyruvyl-glycine benzyl ester occurs after warming, the addition of water, separation, washing, drying, evaporation, precipitation, filtering, and drying again. The pyruvyl-glycine benzyl ester is then charged in a hydrogen pressure vessel in a solvent and a palladium on carbon catalyst, with the hydrogen pressure being approximately 60 psi such that hydrogen is digested whereby following filtering, concentration, precipitation, filtering, and drying there is yielded pyruvyl-glycine.

reactant | pyruvyl-glycine benzyl ester | C(C1=CC=CC=C1)OC(CNC(C(=O)C)=O)=O | C12H13NO4
solvent | water | O | H2O
product | pyruvyl-glycine | C(C(=O)C)(=O)NCC(=O)O | C5H7NO4
